US07517873B2
To a mixture of 0.10 g (0.00022 mole) of 4-(9-cyclopentyl-7,7-difluoro-5-methyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-3-methoxy-benzoic acid (I-100), 0.16 mL (0.00090 mole) of ethyldiisopropyl amine and 0.028 g (0.00025 mole) of 4-amino-1-methyl-piperidine in 3.0 mL of dimethylformamide was added 0.11 g (0.00025 mole) of 1-(di-1-pyrrolidinylmethylene)-1H-benzotriazolium 3-oxide hexafluorophosphate. The mixture was stirred at room temperature for 1 hour, then diluted with 10 mL of ice water. The resulting solid was collected by filtration, washed with saturated sodium carbonate and water, and dried under vacuum. Purification by silica gel chromatography, eluting with dichloromethane-methanol (100:0-90:10) gave 0.057 g of 4-(9-cyclopentyl-7,7-difluoro-5-methyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-3-methoxy-N-(1-methyl-piperidin-4-yl)-benzamide as a white solid (I-101).

reactant | 4-(9-cyclopentyl-7,7-difluoro-5-methyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-3-methoxy-benzoic acid | 0.00022 mole, 0.10 g | C1(CCCC1)N1C2=C(N(C(C(C1)(F)F)=O)C)C=NC(=N2)NC2=C(C=C(C(=O)O)C=C2)OC | C21H23F2N5O4
reactant | ethyldiisopropyl amine | 0.00090 mole, 0.16 mL | C(C)N(C(C)C)C(C)C | C8H19N
reactant | 4-amino-1-methyl-piperidine | 0.00025 mole, 0.028 g | NC1CCN(CC1)C | C6H14N2
solvent | dimethylformamide | 3.0 mL | CN(C=O)C | C3H7NO
product | 4-(9-cyclopentyl-7,7-difluoro-5-methyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-3-methoxy-N-(1-methyl-piperidin-4-yl)-benzamide | 0.057 g | C1(CCCC1)N1C2=C(N(C(C(C1)(F)F)=O)C)C=NC(=N2)NC2=C(C=C(C(=O)NC1CCN(CC1)C)C=C2)OC | C27H35F2N7O3
